US04271157
(a) 2-(1H-Imidazol-1-yl-methoxy)-1H-isoindole-1,3(2H) dione
5.1 g sodium salt of N-hydroxyphthalimide and 1.9 g 2-chloromethyl imidazole hydrochloride (Journal of Chem. Soc. 1965,4577) are stirred at room temperature in dry methanol for 2 hours. The solvent is distilled off in vacuo and the residue treated with aqueous sodium bicarbonate and extracted 3 to 4 times with chloroform. The combined organic layers are dried over sodium sulfate, filtered and evaporated to dryness 1.7 g of 2-(1H-Imidazol-1-yl-methoxy)-1H-isoindole-1,3(2H)dione remains as crystalline solid with a melting point of 158°-160° C.

reactant | sodium | 5.1 g | [Na] | Na
reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 2-chloromethyl imidazole hydrochloride | 1.9 g | Cl.ClCC=1NC=CN1
reactant | methanol | CO | CH4O
product | 2-(1H-Imidazol-1-yl-methoxy)-1H-isoindole-1,3(2H) dione | N1(C=NC=C1)CON1C(C2=CC=CC=C2C1=O)=O | C12H9N3O3
